Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Xylocaine
 
Attending: ___.
 
Chief Complaint:
Left Leg Swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ f w/ h/o presents with 1 week of LLE swelling; seen in ___ 
___ clinic ___ referred to ED for US. Denies cough, SOB, leg 
pain. Pt did not notice swelling, but states her aunt noticed. 
She had no difficulty ambulating.  
.  
ED Course: ___ revealed extensive LLE DVT. Vascular surgery 
consulted for ? thrombectomy. Guaic negative. Heparin drip 
started.  
.  
ROS on arrival: Feels well. Has itchy red rash over trunk, legs 
x 1 week - per pt, thought to be drug rash from neulasta. no 
CP/SOB. No GI or GU sx. No pain in legs.  

 
Past Medical History:
-Invasive ductal carcinoma of the right breast, stage II, ER/PR  

positive, HER-2/neu negative. s/p mastectomy w/ flap 
reconstruction (___), s/p axillary lymph node dissection 
(___), now s/p two cycles  
of cycle two Cytoxan and Taxotere neoadjuvant chemo, last dose 
___  
-h/o DVT  
-___ Disease  
-Retinal Detachment  
-endometriosis with hysterectomy  
-h/o b/l DVT ___  
-hypothyroid s/p Total thyroidectomy for multinodular goiter  

 
Social History:
___
Family History:
Family history is positive for thyroid disease.  She has an 
uncle
with hyperthyroidism and an uncle with hypothyroidism
 
Physical Exam:
vitals 98.6, 96, 18, 108/70, 98% RA
gen comfortable, NAD
heent: EOMI, PERRL, OP clear
cv: rrr
pulm: cta b/l 
abd: soft, nt/nd
ext: significant LLE edema, nontender, negative ___
rectal: guaic negative (in ED)
skin: erythemetous rash over b/l ___, abd, chest
 
Pertinent Results:
___ 10:05AM   ___ ___
___ 10:05AM   PLT COUNT-410#
___ 10:05AM   WBC-14.8*# RBC-4.03* HGB-10.7* HCT-32.6* 
MCV-81* MCH-26.6* MCHC-32.9 RDW-14.6
___ 08:37PM   ___ PTT-21.7* ___
___ 08:37PM   PLT COUNT-452*
___ 08:37PM   NEUTS-84.8* LYMPHS-12.0* MONOS-2.0 EOS-1.0 
BASOS-0.2
___ 08:37PM   WBC-12.9* RBC-3.73* HGB-10.2* HCT-29.9* 
MCV-80* MCH-27.3 MCHC-34.1 RDW-15.2
___ 08:37PM   estGFR-Using this
___ 08:37PM   GLUCOSE-91 UREA N-11 CREAT-0.8 SODIUM-143 
POTASSIUM-3.4 CHLORIDE-104 TOTAL CO2-31 ANION GAP-11

Radiology Report UNILAT LOWER EXT VEINS LEFT Study Date of 
___ 6:25PM 
IMPRESSION: 
Extensive deep vein thrombosis of the left lower extremity 
extending from the common femoral vein through the superficial 
femoral vein. Normal right common femoral venous waveform 
suggests that the thrombus does not extend more proximally to 
the inferior vena cava. 

___ 05:00PM BLOOD ___ PTT-100.5* ___
___ 02:09AM BLOOD ___ PTT-108.4* ___
 
Brief Hospital Course:
___ with h/o b/l DVT, stage II invasive ductal carcinoma of 
right breast presents with LLE DVT.

#DVT:  Pt was started on a heprin drip and transitioned to 
coumadin.  Vascular surgery was initially consulted through the 
ED and in addition to heparin, they recommended elevation and 
compression wrappings of the legs to aid in reduction of 
swelling.  Through discussion with her outpatient providers and 
through medical record history, it was found that complainace 
was an issue in this paitient.  It was felt that she could not 
be safely discharged with a lovenox bridge and so she was kept 
in house until her INR theapeutic.  At the time of discharge, 
the patient's INR was 4.9  She was instructed to skip her next 
scheduled dose and to have her INR checked the following day, 
with Dr. ___ to follow the results. The patient was 
discharged with a prescription for 5mg tablets so that she could 
make dose adjustments as needed.  
.  
#Breast cancer - The patient was originally scheduled for cycle 
3 of Cytoxan and Taxotere the day prior to admission.  However, 
given her DVT, this was delayed several days.  She recieved 
cycle 3 as an inpatient under the direction of her primary 
oncologist.  
.  
#Hypothyroid: The patient was continued on her home medications
.  
#Dermatitis: At the itme of presentation, the patient had a 
puritic, erythematous rash over her  thighs, tunk and forearms 
which has been noted by her oncologist and was felt to be due to 
Neulasta.  The paitent was started on an antihistamine and sarna 
lotion for symptom relief and her rash resolved over the initial 
few days of hospitalization.
 
Medications on Admission:
Levothyroxine [Synthroid] 112 mcg Tablet  
zofran, ativan, compazine, dexamthasone - PRN with chemo  
Docusate BID prn  
claritin  
benadryl  

 
Discharge Medications:
1. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
4. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
5. Dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours) for 1 days.
Disp:*2 Tablet(s)* Refills:*0*
6. Diphenhydramine HCl 25 mg Capsule Sig: Two (2) Capsule PO HS 
(at bedtime) as needed.  
7. Coumadin 5 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
- DVT 
- invasive ductal carcinoma of breast 
Secondary: 
- ___ 
- retinal detachment 
- endometriosis 

 
Discharge Condition:
well; ambulating on RA.

 
Discharge Instructions:
You came in with left leg swelling.  You had a clot in your leg. 
 This was treated with IV heparin and coumadin to thin your 
blood.  It is very important that you remain on the coumadin to 
prevent spread of your clot.

Please resume your prior medications as scheduled.  You need one 
more day's worth of decadron in the setting of your chemo.  

If you have worsening leg pain or shortness of breath or chest 
pain, please come to the emergency department for evaluation.

Please have your coumadin (INR) level checked on ___ with 
your PCP's office.  Your coumadin level will need to be followed 
closely.
 
Followup Instructions:
___